US07060827B2
In a manner similar to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 5-bromo-2,4-dichloropyrimidine and 3-aminophenol were reacted to yield N2,N4-bis(3-hydroxyphenyl)-5-bromo-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.99 (bs, 1H), 9.34 (bs, 1H), 8.30 (s, 1H), 7.15 (t, 1H, J=8.4 Hz), 7.06–6.97 (m, 2H), 6.94–6.92 (m, 2H), 6.80 (bs, 1H), 6.62 (s, 1H, J=8.1 Hz), 6.43 (d, 1H, J=7.8 Hz); LCMS: ret. time: 18.48 min.; purity: 97%; MS (m/e): 374 (MH+).

reactant | N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C16H13FN4O2
reactant | 5-bromo-2,4-dichloropyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
product | N2,N4-bis(3-hydroxyphenyl)-5-bromo-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)Br | C16H13BrN4O2
